US05104443
1.74 g (0.008 mol) of 2-propoxyphenyl sulfamate are added at room temperature to 2.32 g (0.0084 mol) of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate, dissolved in 100 ml of acetonitrile. After 1.33 g (0.0088 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) have been added, the reaction mixture is stirred at room temperature for 18 hours, concentrated, diluted with H2O and acidified using 2N hydrochloric acid to give a pH of 3-4. After the solids have been filtered off with suction and dried, 2.85 g (86% of theory) of 3-(4,6-dimethoxypyrimidin-2-yl)- 1-(2-propoxyphenoxysulfonyl)urea of melting point 108°-109° C. are obtained.

reactant | 2-propoxyphenyl sulfamate | 0.008 mol, 1.74 g | S(N)(OC1=C(C=CC=C1)OCCC)(=O)=O | C9H13NO4S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 0.0084 mol | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.0088 mol, 1.33 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(4,6-dimethoxypyrimidin-2-yl)- 1-(2-propoxyphenoxysulfonyl)urea | 2.85 g, 86% | COC1=NC(=NC(=C1)OC)NC(NS(=O)(=O)OC1=C(C=CC=C1)OCCC)=O | C16H20N4O7S
